US03953510
The method of claim 1 wherein nitrobenzene is reacted with methanol to form p-methoxyaniline.

reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | methanol | CO | CH4O
product | p-methoxyaniline | COC1=CC=C(N)C=C1 | C7H9NO
